US09216967B2
2-[(2-ethylphenyl)oxy]-5-nitropyridine
In a 20 mL microwave vial 2-chloro-5-nitropyridine (500 mg, 3.15 mmol) was dissolved in N,N-dimethylformamide (10 mL) to give a light brown solution. 2-ethylphenol (0.378 mL, 3.15 mmol) and K2CO3 (1308 mg, 9.46 mmol) were added. The reaction vessel was sealed and heated in Biotage Initiator at 110° C. for 1 hour. After cooling the reaction was complete. The reaction mixture was quenched with 10 mL of water and diluted with 10 mL of Et2O. Phases were separated through a separating funnel. The organic phase was washed with 3×10 mL of water, 10 mL of brine, dried over sodium sulphate, filtered and evaporated under vacuum to give the title compound as a pale orange oil. (623 mg).

reactant | 2-chloro-5-nitropyridine | 3.15 mmol, 500 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 2-ethylphenol | 3.15 mmol, 0.378 mL | C(C)C1=C(C=CC=C1)O | C8H10O
reactant | K2CO3 | 9.46 mmol, 1308 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-[(2-ethylphenyl)oxy]-5-nitropyridine | C(C)C1=C(C=CC=C1)OC1=NC=C(C=C1)[N+](=O)[O-] | C13H12N2O3
